US04261995
A solution of 2.61 g (14.5 m. mole) of 2-(3-methoxyphenyl)-1,3-propanediamine in 200 ml of methanol is combined with a solution of 3.0 g (14.55 m. mole) of 1,3-bis(methoxycarbonyl)-S-methylisothiourea in 200 ml of methanol and allowed to stand at room temperature over night. The crystalline product which separates is collected, washed with methanol and dried at 78° under vacuum to give 2.62 g of 2-methoxycarbonylamino-5-(3-methoxyphenyl)-1,4,5,6-tetrahydropyrimidine, mp 218°-221°.

reactant | 2-(3-methoxyphenyl)-1,3-propanediamine | 2.61 g | COC=1C=C(C=CC1)C(CN)CN | C10H16N2O
reactant | 1,3-bis(methoxycarbonyl)-S-methylisothiourea | 3.0 g | COC(=O)NC(SC)=NC(=O)OC | C6H10N2O4S
solvent | methanol | 200 ml | CO | CH4O
solvent | methanol | 200 ml | CO | CH4O
product | 2-methoxycarbonylamino-5-(3-methoxyphenyl)-1,4,5,6-tetrahydropyrimidine | 2.62 g | COC(=O)NC=1NCC(CN1)C1=CC(=CC=C1)OC | C13H17N3O3
